US06838565B2
c. methyl 2-(2-benzyloxy-5-cyano-phenyl)-3-phenyl-propionate
4.6 g (16.3 mmol) of methyl (2-benzyloxy-5-cyano-phenyl)-acetate are dissolved in 10 ml of dimethylformamide and 1.9 g (17 mmol) of potassium tert. butoxide are added. Then 2 ml (16.8 mmol) of benzylbromide are added dropwise while cooling gently with ice and the mixture is then stirred for another two hours at ambient temperature. It is stirred with ice water and extracted with ethyl acetate. The combined organic extracts are dried and concentrated by evaporation. The crude product is chromatographed on silica gel, eluting with petroleum ether/ethyl acetate (0-7%).

reactant | methyl (2-benzyloxy-5-cyano-phenyl)-acetate | 16.3 mmol, 4.6 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#N)CC(=O)OC | C17H15NO3
reactant | potassium tert. butoxide | 17 mmol, 1.9 g | CC(C)([O-])C.[K+]
reactant | benzylbromide | 16.8 mmol, 2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 2-(2-benzyloxy-5-cyano-phenyl)-3-phenyl-propionate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#N)C(C(=O)OC)CC1=CC=CC=C1 | C24H21NO3
